datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]1([H:16])[H:17])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])=[C:6]1[H:17])([H:7])[H:8].[H:16],123.428
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([O:5][H:14])([O:6][O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([O:2][O:3][H:12])([C:4]([O:5])([O:6][O:7][H:14])[H:13])[H:11])([H:8])([H:9])[H:10],143.76224
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[S:11]([H:12])[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:12])[H:6])([H:4])[H:5].[S:11][H:13],30.9616
[O:3][O:4].[S:0]([H:1])[H:2]>>[H:1][O:3][O:4].[S:0][H:2],159.8288
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](#[C:11][C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]#[C:10][H:13])([H:14])[H:15])[H:6],37.5305
[C:0](=[O:1])([H:2])[H:3].[C:4]([O:5][H:8])([H:6])[H:7]>>[C:0](=[O:1])[H:3].[H:2][C:4]([O:5][H:8])([H:6])[H:7],24.526608
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14]([H:15])([H:16])[H:17]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:14]([H:15])([H:16])[H:17])([H:6])[H:7],36.359
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][O:36][H:37]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:18][O:35][O:36][H:37],58.19944
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:15]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:12][H:15],28.267104
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[S:16])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:20])[H:7])([H:5])[H:6].[C:14]([C:15]=[S:16])([H:17])([H:18])[H:19],115.06
[C:0](=[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[O:11][H:12]>>[C:0](=[C:1]([C:2]([C:3]=[O:4])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][O:11][H:12],-1.42256
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[H:9])[H:8])([H:5])([H:6])[H:7].[O:14]([O:15][H:17])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[H:9])([H:8])[H:16])([H:5])([H:6])[H:7].[O:14][O:15][H:17],-1.71544
[C:4]([C:5](=[C:6]([H:10])[H:11])[H:9])([H:7])[H:8].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4]([C:5](=[C:6]([H:10])[H:11])[H:9])([H:7])[H:8].[O:0][O:1][H:3],41.25424
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([S:7][H:12])[H:11])([H:8])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:8])([H:9])[H:10])([S:7][H:12])[H:11],65.2704
[C:0]([C:1]([O:2][Si:3]([O:4][C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([O:7][C:8]([C:9]([H:25])([H:26])[H:27])([H:23])[H:24])[O:10][C:11]([C:12]([H:30])([H:31])[H:32])([H:28])[H:29])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([H:16])[H:17])([H:13])[H:14].[O:2]([Si:3]([O:4][C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([O:7][C:8]([C:9]([H:25])([H:26])[H:27])([H:23])[H:24])[O:10][C:11]([C:12]([H:30])([H:31])[H:32])([H:28])[H:29])[H:15],286.821568
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:17]([C:16]([H:19])([H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])[H:8],1.2552
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](#[C:7][C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:8]([C:7]#[C:6][H:9])([H:10])[H:11])[H:4],50.4172
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]=[S:12])([H:13])([H:14])[H:15]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11]([C:10]([H:13])([H:14])[H:15])=[S:12],62.3416
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[H:30])([H:27])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:25]([C:24]([H:27])([H:28])[H:29])([C:26]([H:31])([H:32])[H:33])[H:30])[H:12],19.3719
